US06080734
Phosphoric acid-(3-dodecylmercapto-2-decyloxy)-1-propyl ester
A suspension of 4.26 g P4O10 in 60 ml absolute pyridine was admixed at room temperature with 13 ml hexamethyldisiloxane and heated to 100° C. for 1 hour. It was then slightly cooled, admixed with 25 g 3-dodecylmercapto-2-decyloxy-1-propanol and heated for a further 2.5 hours to 100° C.

reactant | P4O10 | 4.26 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | hexamethyldisiloxane | 13 ml | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | 3-dodecylmercapto-2-decyloxy-1-propanol | 25 g | C(CCCCCCCCCCC)SCC(CO)OCCCCCCCCCC | C25H52O2S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | Phosphoric acid-(3-dodecylmercapto-2-decyloxy)-1-propyl ester | C(CCCCCCCCCCC)SC(C(C)OCCCOP(O)(O)=O)CCCCCCC | C25H53O5PS
